US09056859B2
Sodium azide (0.712 g, 11.0 mmol) was added to a stirred mixture of triethyl orthoformate (1.95 ml, 11.7 mmol) and ethyl (4-methyl-6-aminopyridin-3-yl)acetate (1.42 g, 7.30 mmol) in acetic acid (10 ml) and the mixture was stirred at 80° C. for 24 h. The reaction mixture was cooled, diluted with water, and extracted with EtOAc (2×). The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated to provide ethyl [4-methyl-6-(1H-tetrazol-1-yl)pyridin-3-yl]acetate. 1H-NMR (400 MHz, CDCl3) δ ppm 9.57 (s, 1H), 8.35 (s, 1H), 7.98 (s, 1H), 4.23 (m, 2H), 3.78 (s, 2H), 2.71 (s, 3H), 1.27 (m, 3H). LC-MS (IE, m/z): 248 [M+1]+.

reactant | Sodium azide | 11.0 mmol, 0.712 g | [N-]=[N+]=[N-].[Na+]
reactant | triethyl orthoformate | 11.7 mmol, 1.95 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | ethyl (4-methyl-6-aminopyridin-3-yl)acetate | 7.30 mmol, 1.42 g | CC1=C(C=NC(=C1)N)CC(=O)OCC | C10H14N2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | ethyl [4-methyl-6-(1H-tetrazol-1-yl)pyridin-3-yl]acetate | CC1=C(C=NC(=C1)N1N=NN=C1)CC(=O)OCC | C11H13N5O2
